US05665718
3.44 g (10 mmol) of 3-(3-aminomethyl-1,2,4-oxadiazol-5-yl)-7-chloro-5,6-dihydro-5-methyl-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one, 30 ml of N,N-dimethylformamide, 3.7 ml (22 mmol) of N-ethyldiisopropylamine and 2.9 g (11 mmol) of α,α'-dibromo-o-xylene were stirred at room temperature for 6 hours. After evaporating the solvent the residue was chromatographed on 230 g of silica gel while eluting with ethyl acetate. The uniform fractions were evaporated. There were obtained 1.56 g (35%) of 7-chloro-5,6-dihydro-3-(3-isoindolin-2-yl-methyl-1,2,4-oxadiazol-5-yl)-5-methyl-4H-imidazo[1,5-a][1,4]-benzodiazepin-6-one, which was converted into the hydrochloride of m.p. 180°-184°.

reactant | 3-(3-aminomethyl-1,2,4-oxadiazol-5-yl)-7-chloro-5,6-dihydro-5-methyl-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 10 mmol, 3.44 g | NCC1=NOC(=N1)C=1N=CN2C1CN(C(C1=C2C=CC=C1Cl)=O)C | C15H13ClN6O2
reactant | N-ethyldiisopropylamine | 22 mmol, 3.7 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | α,α'-dibromo-o-xylene | 11 mmol, 2.9 g | BrCC=1C(=CC=CC1)CBr | C8H8Br2
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 7-chloro-5,6-dihydro-3-(3-isoindolin-2-yl-methyl-1,2,4-oxadiazol-5-yl)-5-methyl-4H-imidazo[1,5-a][1,4]-benzodiazepin-6-one | 1.56 g, 35% | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C1=NC(N(O1)C)N1CC2=CC=CC=C2C1)C)=O | C23H21ClN6O2
